US07598264B2
6-(3-Chloro-4-fluorobenzyl)-3,4-dihydroxy-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide
6-(3-Chloro-4-fluorobenzyl)-1-[(dimethylamino)carbonyl]-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-3,4-diyl diacetate (30 g, 62.7 mmol) was dissolved in 500 mL MeOH and treated with a 30% by weight solution of NaOMe in MeOH (45.2 mL, 251 mmol 4 equivalents was sufficient to get the pH of the reaction to 9) for 1 hour at 40° C. LCMS showed the cleavage of the acetate groups was complete. The reaction was neutralized with 1N HCl and the volume reduced to remove the MeOH and the residue was diluted with water and acidified to pH 3. The cloudy aqueous layer was diluted with an equal volume (800 mL) of chloroform. After shaking, the product began to crystallize out of the solutions and gathered at the miniscus. The total contents of the funnel were filtered and the collected solids were washed with water until no more salts appeared to remain. The solid was dried in vacuo for 16 hours to give a cinnamon colored solid. The organic layer from the filtered extraction was collected, washed with water and dried over Na2SO4, filtered and evaporated. The residue was crystallized from methanol to give product. The crude material was quite insoluble but was crystallized from DMF, then boiled in MeOH, filtered and dried under vacuum to give product.

reactant | 6-(3-Chloro-4-fluorobenzyl)-1-[(dimethylamino)carbonyl]-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-3,4-diyl diacetate | 62.7 mmol, 30 g | C(C)(=O)OC=1N=C(C=2CCN(C(C2C1OC(C)=O)=O)CC1=CC(=C(C=C1)F)Cl)C(=O)N(C)C | C22H21ClFN3O6
reactant | NaOMe | C[O-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 500 mL | CO | CH4O
product | 6-(3-Chloro-4-fluorobenzyl)-3,4-dihydroxy-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide | ClC=1C=C(CN2C(C=3C(=C(N=C(C3CC2)C(=O)N(C)C)O)O)=O)C=CC1F | C18H17ClFN3O4
